US07842694B2
3-{[3-Chloro-5-(morpholin-4-ylcarbonyl)pyridin-2-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution 5-chloro-6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylic acid (0.15 g, 0.267 mmol), morpholine (0.07 mL, 0.803 mmol), HATU (0.213 g, 0.560 mmol) and DIPEA (0.15 mL, 0.861 mmol) in DMF (7 mL) was stirred at RT for 2 days. Water (20 mL) was added and the solution extracted with ethyl acetate (50 mL). The ethyl acetate layer was separated, washed with brine and dried (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with 1% methanol in ethyl acetate. 3.5M Hydrochloric acid (0.5 mL) was added to a solution of the residual solid taken up in methanol (5 mL) and allowed to stir at RT for 20 minutes. The solution was neutralised with saturated sodium bicarbonate solution and the methanol removed in vacuo and the residual solution partitioned between water (20 mL) and ethyl acetate. The ethyl acetate layer was separated and washed with brine, dried (MgSO4) and evaporated to give the desired product (34 mg). 1H NMR δ (d6-DMSO): 1.28 (d, 3H), 3.58 (m, 10H), 3.81 (s, 3H), 4.61 (sextet, 1H), 4.89 (t, 1H), 6.60 (d, 1H), 7.03 (t, 1H), 7.41 (s, 1H), 7.54 (s, 1H), 7.63 (d, 1H), 8.20 (q, 2H), 10.84 (s, 1H). m/z 516 (M+H)+

reactant | 5-chloro-6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylic acid | 0.267 mmol, 0.15 g | ClC=1C=C(C=NC1OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C(=O)O | C26H33ClN4O6Si
reactant | morpholine | 0.803 mmol, 0.07 mL | N1CCOCC1 | C4H9NO
reactant | HATU | 0.560 mmol, 0.213 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.861 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | Water | 20 mL | O | H2O
product | 3-{[3-Chloro-5-(morpholin-4-ylcarbonyl)pyridin-2-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 34 mg | ClC=1C(=NC=C(C1)C(=O)N1CCOCC1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO)C | C24H26ClN5O6
